US07935702B2
3. 7-[6-Ethoxy-4-(trifluoromethyl)pyridazin-3-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-1,8-naphthyridin-4-amine
In a sealed tube, add 3-[6-ethoxy-4-(trifluoromethyl)pyridazin-3-yl]pyrido[2,3-b]pyrazin-8-amine (290 mg, 0.862 mmol), 2-chloro-5-trifluoromethyl-pyridine (172 mg, 0.948 mmol), and Cs2CO3 (842 mg, 2.58 mmol) in dry dioxane (8 mL). Bubble argon through the solution for 5 minutes. Add Pd2 dba3 (79 mg, 0.0862 mmol) and xantphos (50 mg, 0.0862 mmol). Bubble argon through the solution for an additional 5 minutes. Seal the tube and heat the mixture at 110° C. overnight. Cool the mixture to room temperature and dilute with acetone (10 mL). Filter the mixture through Celite, washing with acetone. Evaporate the solvent under reduced pressure. Purify the crude residue by chromatography on silica gel eluting with Hexane/EtOAc (3/1) to yield the title compound. 1H NMR (CDCl3) δ 9.52 (s, 1H), 9.43 (br s, 1H), 9.12 (d, 1H), 8.92 (d, 1H), 8.73 (br s, 1H), 7.91 (dd, 1H), 7.48 (s, 1H), 7.15 (d, 1H), 4.78 (q, 2H), 1.55 (t, 3H). LC/MS (MH+) 482.10. The IC50 determined as described in Example 6 is less than 1 micromolar.

reactant | 3-[6-ethoxy-4-(trifluoromethyl)pyridazin-3-yl]pyrido[2,3-b]pyrazin-8-amine | 0.862 mmol, 290 mg | C(C)OC1=CC(=C(N=N1)C1=CN=C2C(=N1)N=CC=C2N)C(F)(F)F | C14H11F3N6O
reactant | 2-chloro-5-trifluoromethyl-pyridine | 0.948 mmol, 172 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | Cs2CO3 | 2.58 mmol, 842 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | xantphos | 0.0862 mmol, 50 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | acetone | 10 mL | CC(=O)C | C3H6O
catalyst | Pd2 dba3 | 0.0862 mmol, 79 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-[6-Ethoxy-4-(trifluoromethyl)pyridazin-3-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-1,8-naphthyridin-4-amine | C(C)OC1=CC(=C(N=N1)C1=CC=C2C(=CC=NC2=N1)NC1=NC=C(C=C1)C(F)(F)F)C(F)(F)F | C21H14F6N6O
